US09315495B2
The compound was synthesized as in Example 3.1 using 5-bromo-2-formylthiophene (191 mg, 1.0 mmol) in place of 5-bromo-2-formylfuran and 3-butenylboronic acid (150 mg, 1.5 mmol) in place of hexylboronic acid to give 5-(3-butenyl)-2-formylthiophene (91 mg, 55%). Used without further characterization.

reactant | 5-bromo-2-formylthiophene | 1.0 mmol, 191 mg | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | 3-butenylboronic acid | 1.5 mmol, 150 mg | C(CC=C)B(O)O | C4H9BO2
product | 5-(3-butenyl)-2-formylthiophene | 91 mg, 55% | C(CC=C)C1=CC=C(S1)C=O | C9H10OS
